US07034042B2
(E)-3-(5-Cyano-2-methoxy-phenyl)-N-{2-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-1-hydroxymethyl-ethyl}-acrylamide
To a suspension of 2-(formyl-3-methoxyphenoxy)ethyl polystyrene (AMEBA) resin (ex Novabiochem) (2.13 g, 3.40 mmol) in a mixture of acetic acid/DMF (60 ml, 1:100 v/v) is added 2-amino-3-tert-butoxy-propan-1-ol and sodium triacetoxyborohydride (1.44 g, 6.80 mmol) and the mixture is shaken for 18 hours at 20° C., then filtered. The resin obtained is washed with methanol, DMF and dichloromethane (DCM), then dried under vacuum. A THF/acetonitrile mixture (20 ml, 1:1 v/v) is added to the dried resin followed by iodine (4.30 g, 18.85 mmol), imidazole (1.16 g, 17.00 mmol) and triphenylphosphine (4.46 g, 17.00 mmol). The suspension obtained is shaken for 6 hours at 20° C., then filtered. The resin is washed with THF and dried under vacuum. To the freshly prepared resin obtained (0.30 g, 0.48 mmol) is added a solution of 4-(4-fluoro-phenoxy)-piperidine (309 mg, 1.00 mmol) dissolved in DMF (2 ml) and diisopropylethylamine (62.4 mg, 0.48 mmol). The mixture is heated at 55° C. for 8 hours. The resulting mixture is filtered and the resin is washed with DMF. To the washed resin are added (E)-3-(5-cyano-2-methoxy-phenyl)-acrylic acid (0.27 g, 1.05 mmol), O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluroniumhexafluoro-phosphate (547 mg, 1.44 mmol) diisopropylethylamine (186 mg, 1.44 mmol) and DMF (4 ml) and the mixture is shaken at 20° C. for 18 hours, then washed with DMF and methanol, after which it is treated with trifluoroacetic acid/DCM (6 ml, 1:1 v/v) at 20° C. for 1 hour to remove the product from the resin. The resulting mixture is filtered and the filtrate evaporated under vacuum to give the product, [MH]+ 453.9.

reactant | 2-amino-3-tert-butoxy-propan-1-ol | NC(CO)COC(C)(C)C | C7H17NO2
reactant | sodium triacetoxyborohydride | 6.80 mmol, 1.44 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | iodine | 18.85 mmol, 4.30 g | II | I2
reactant | imidazole | 17.00 mmol, 1.16 g | N1C=NC=C1 | C3H4N2
reactant | triphenylphosphine | 17.00 mmol, 4.46 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(4-fluoro-phenoxy)-piperidine | 1.00 mmol, 309 mg | FC1=CC=C(OC2CCNCC2)C=C1 | C11H14FNO
reactant | diisopropylethylamine | 0.48 mmol, 62.4 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (E)-3-(5-cyano-2-methoxy-phenyl)-acrylic acid | 1.05 mmol, 0.27 g | C(#N)C=1C=CC(=C(C1)/C=C/C(=O)O)OC | C11H9NO3
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluroniumhexafluoro-phosphate | 1.44 mmol, 547 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | acetic acid DMF | 60 ml | C(C)(=O)O.CN(C)C=O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | (E)-3-(5-Cyano-2-methoxy-phenyl)-N-{2-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-1-hydroxymethyl-ethyl}-acrylamide | C(#N)C=1C=CC(=C(C1)/C=C/C(=O)NC(CN1CCC(CC1)OC1=CC=C(C=C1)F)CO)OC | C25H28FN3O4
